// Generated for: spectre
// Generated on: Oct 31 11:31:53 2021
// Design library name: sram_6t
// Design cell name: sram_cell
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/ecegrid/a/559mg23/vlsi_assignment/sram_6t/tsmc18dN.m"
include "/home/ecegrid/a/559mg23/vlsi_assignment/sram_6t/tsmc18dP.m"

// Library name: sram_6t
// Cell name: sram_cell
// View name: schematic
N3 (Q WL BL GND) tsmc18dN w=315.00n l=180.0n as=1.4175e-13 ad=1.4175e-13 \
        ps=1.53u pd=1.53u m=1 region=sat
N1 (GND QB Q GND) tsmc18dN w=405.00n l=180.0n as=1.8225e-13 ad=1.8225e-13 \
        ps=1.71u pd=1.71u m=1 region=sat
N4 (BLB WL QB GND) tsmc18dN w=315.00n l=180.0n as=1.4175e-13 ad=1.4175e-13 \
        ps=1.53u pd=1.53u m=1 region=sat
N2 (QB Q GND GND) tsmc18dN w=405.00n l=180.0n as=1.8225e-13 ad=1.8225e-13 \
        ps=1.71u pd=1.71u m=1 region=sat
P1 (Q QB VDD VDD) tsmc18dP w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
P0 (QB Q VDD VDD) tsmc18dP w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
C2 (WL GND) capacitor c=1p m=1
C1 (BLB GND) capacitor c=1p m=1
C0 (BL GND) capacitor c=1p m=1
include "./_graphical_stimuli.scs"
ic QB=0 BLB=1.8 BL=1.8 Q=1.8 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
